US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-5-oxy)-pyrazine, CJS 511
Using Method EE with 2-chloro-6-(indanone-5-oxy)-pyrazine (200 mg, 0.77 mmol) and 3,4,5-trimethoxyaniline (169 mg, 0.92 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (61 mg). Yield: 20%. 1H NMR (250 MHz, DMSO-d6) δ 2.68 (t, 2H, H3, J=5.6 Hz), 3.08 (t, 2H, H2, J=5.0 Hz), 3.39 (s, 6H, [CH3O]3+5), 3.55 (s, 3H, [CH3O]4), 6.77 (s, 2H, Harom2′+6′), 7.21 (dd, 1H, Harom 6, Jm=1.9 Hz, Jo=8.3 Hz), 7.40 (s, 1H, Harom 4), 7.68 (d, 1H, Harom 7, J=8.3 Hz), 7.84 (s, 1H, HPz 5), 8.02 (s, 1H, HPz 3), 9.62 (s, 1H, NH). m/z: 408.1 [(M+H)+, calcd for C22H21N3O5 407.1].

reactant | 2-chloro-6-(indanone-5-oxy)-pyrazine | 0.77 mmol, 200 mg | ClC1=NC(=CN=C1)OC=1C=C2CCC(C2=CC1)=O | C13H9ClN2O2
reactant | 3,4,5-trimethoxyaniline | 0.92 mmol, 169 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(indanone-5-oxy)-pyrazine | Yield: 20% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC=1C=C2CCC(C2=CC1)=O | C22H21N3O5
